US08349833B2
A mixture of 6-Piperidin-4-yl-2-piperidin-1-yl-pyrimidin-4-ol, hydrochloride salt (2.0 mmol), 3-hydroxy-4-methoxy-benzaldehyde (2.6 mmol), triethylamine (4.0 mmol) and 3 drops of acetic acid in dry dichloromethane (20 mL) was stirred at room temperature for 3 hours. Then sodium triacetoxyborohydride (6.0 mmol) was added in portions and stirring was continued for 48 hours (monitored by TLC). The mixture was quenched with saturated aqueous sodium bicarbonate solution (20 mL), and the product was extracted with dichloromethane (2×10 mL). The extracts were washed with brine and dried over sodium sulfate. The solvent was evaporated in vacuo to give a crude product. Purification via column chromatography (silica gel, ethyl acetate/hexane) afforded 6-[1-(3-hydroxy-4-methoxy-benzyl)-piperidin-4-yl]-2-piperidin-1-yl-pyrimidin-4-ol (Compound IIb, 542 mg, 68%).

reactant | 6-Piperidin-4-yl-2-piperidin-1-yl-pyrimidin-4-ol, hydrochloride salt | 2.0 mmol | Cl.N1CCC(CC1)C1=CC(=NC(=N1)N1CCCCC1)O
reactant | 3-hydroxy-4-methoxy-benzaldehyde | 2.6 mmol | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | triethylamine | 4.0 mmol | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 6.0 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-[1-(3-hydroxy-4-methoxy-benzyl)-piperidin-4-yl]-2-piperidin-1-yl-pyrimidin-4-ol | 542 mg, 68% | OC=1C=C(CN2CCC(CC2)C2=CC(=NC(=N2)N2CCCCC2)O)C=CC1OC | C22H30N4O3
